US09144557B2
(E)-4-(2-(3-Methoxybenzylidene)hydrazinecarbonyl)-N-(2-(4-methoxyphenyl)-1H-benzo[d]imidazol-6-yl)benzamide (Compound 269)
Compound 269 was prepared according to the general procedure described in Scheme V. Preparation of methyl 4-((2-(4-methoxyphenyl)-1H-benzo[d]imidazol-6-yl)carbamoyl)benzoate: 2-(4-Methoxyphenyl)-1H-benzo[d]imidazol-6-amine (120 mg, 0.5 mmol) and methyl 4-(chlorocarbonyl)benzoate (80 mg, 0.4 mmole) were place in a 20 mL vial and pyridine (2.0 mL) added and capped tightly. The reaction mixture was stirred at room temperature for 2 h till a solid precipitated out. To this mixture, 10 mL EtOAC was added and stirred for further 15 minutes then filtered. The filter cake was washed with plenty of water and then with some EtOAc (10 mL) and dried to provide pure title compound (70 mg, 44% yield).

reactant | methyl 4-((2-(4-methoxyphenyl)-1H-benzo[d]imidazol-6-yl)carbamoyl)benzoate | COC1=CC=C(C=C1)C1=NC2=C(N1)C=C(C=C2)NC(=O)C2=CC=C(C(=O)OC)C=C2 | C23H19N3O4
reactant | 2-(4-Methoxyphenyl)-1H-benzo[d]imidazol-6-amine | 0.5 mmol, 120 mg | COC1=CC=C(C=C1)C1=NC2=C(N1)C=C(C=C2)N | C14H13N3O
reactant | methyl 4-(chlorocarbonyl)benzoate | 0.4 mmole, 80 mg | ClC(=O)C1=CC=C(C(=O)OC)C=C1 | C9H7ClO3
reactant | pyridine | 2.0 mL | N1=CC=CC=C1 | C5H5N
product | (E)-4-(2-(3-Methoxybenzylidene)hydrazinecarbonyl)-N-(2-(4-methoxyphenyl)-1H-benzo[d]imidazol-6-yl)benzamide | 70 mg, 44% yield | COC=1C=C(\C=N\NC(=O)C2=CC=C(C(=O)NC=3C=CC4=C(NC(=N4)C4=CC=C(C=C4)OC)C3)C=C2)C=CC1 | C30H25N5O4
